US06440995B1
2-[2-(4-Methoxy-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 211-213° C. and MS: m/e=294 (M+), was prepared from 4-chloro-2-(4-methoxy-phenyl)-quinoline and ethanolamine.

reactant | 4-chloro-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[2-(4-Methoxy-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCCO | InChI=1S/C18H18N2O2.ClH/c1-22-14-8-6-13(7-9-14)17-12-18(19-10-11-21)15-4-2-3-5-16(15)20-17;/h2-9,12,21H,10-11H2,1H3,(H,19,20);1H
